US05516788
cis-5,5a,6,10b-Tetrahydroindeno[2,1-b]indole
5,6-Dihydroindeno[2,1-b]indole (185 mg, 0.9 mmol) was reacted with sodium cyanoborohydride (310 mg, 5 mmol), in glacial acetic acid (5 cm3), for six hours. The solution was poured into ice/water, and stirred for one hour. It was then neutralised with sodium hydroxide, and the white solid which formed was collected by filtration, washed with water, dried and purified by "flash" chromatography (10% EtOAc/petrol 60°-80° C., Rf 30% EtOAc/petrol (60°-80° C.) 0.6) to yield the title compound as a colourless solid. Yield: (81 mg, (43%) M.p. 85°-86° C. 1H NMR (CDCl3) δ: 3.09 (1H, dd,), 3.33 (1H, dd,), 3.45 (1H, br,), 4.74 (1H, d,), 4.82 (1H, ddd,), 6.55 (1H, d,), 6.73 (1H, ddd,), 7.00 (1H, ddd,), 7.1- 7.4 (4H, m).

reactant | 5,6-Dihydroindeno[2,1-b]indole | 0.9 mmol, 185 mg | C1=C2C3=C(NC2=CC=C1)CC1=CC=CC=C13 | C15H11N
reactant | sodium cyanoborohydride | 5 mmol, 310 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 5 cm3 | C(C)(=O)O | C2H4O2
product | cis-5,5a,6,10b-Tetrahydroindeno[2,1-b]indole | C1=C2[C@@H]3[C@H](NC2=CC=C1)CC1=CC=CC=C13 | C15H13N
